US07763639B2
1-{2-FLUORO-3-[1-(2-METHOXYETHYL)PIPERIDIN-4-YL]PHENYL}ETHANONE
Preparation according to Example 1: 1-(2-fluoro-3-piperidin-4-ylphenyl)ethanone (0.01 g), acetonitrile (2 ml), potassium carbonate (0.01 g) and 1-bromo-2-methoxyethane (0.01 g). MS m/z (rel. intensity, 70 eV) 279 (M+, 1), 235 (16), 234 (bp), 163 (3), 133 (4).

reactant | 1-(2-fluoro-3-piperidin-4-ylphenyl)ethanone | 0.01 g | FC1=C(C=CC=C1C1CCNCC1)C(C)=O | C13H16FNO
reactant | potassium carbonate | 0.01 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-methoxyethane | 0.01 g | BrCCOC | C3H7BrO
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 1-{2-FLUORO-3-[1-(2-METHOXYETHYL)PIPERIDIN-4-YL]PHENYL}ETHANONE | FC1=C(C=CC=C1C1CCN(CC1)CCOC)C(C)=O | C16H22FNO2
